US04695649
The procedure of Example 5 is conducted except that ethyl p-hydroxybenzoate and terephthalic dichloride are substituted. The reaction product is recrystallized from ethyl acetate-chloroform (1:1) to yield di(p-ethoxycarbonylphenyl)terephthalate, m.p. 187°-189° C., as white crystals.

reactant | ethyl p-hydroxybenzoate | OC1=CC=C(C(=O)OCC)C=C1 | C9H10O3
reactant | terephthalic dichloride | C(C1=CC=C(C(=O)Cl)C=C1)(=O)Cl | C8H4Cl2O2
product | di(p-ethoxycarbonylphenyl)terephthalate | C(C)OC(=O)C1=CC=C(C=C1)OC(C1=CC=C(C(=O)OC2=CC=C(C=C2)C(=O)OCC)C=C1)=O | C26H22O8
